US03958012
To a mixture of 0.4 g. of lithium aluminum hydride and 100 ml. of ethyl ether, there is added a mixture of 2.3 g. of d 2-(6-methoxy-2-naphthyl)propionic acid and 100 ml. of ethyl ether. The mixture is stirred at 0°C for 30 minutes, and 10 ml. of ethyl acetate is added. After 1 hour, 4 ml. of water is added to the mixture. The resulting mixture is filtered and evaporated under reduced pressure to yield l 2-(6-methoxy-2-naphthyl)-l-propanol.

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl ether | C(C)OCC | C4H10O
reactant | 2-(6-methoxy-2-naphthyl)propionic acid | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C14H14O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(6-methoxy-2-naphthyl)-l-propanol | COC=1C=C2C=CC(=CC2=CC1)C(CO)C | C14H16O2
